US09403801B2
3-(8-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile
To a solution of N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine (80 mg, 0.24 mmol) and 2-cyanoacetic acid (22 mg, 0.26 mmol) in DCM (3 mL) and DMF (2 mL) were added EDCI (49 mg, 0.26 mmol) and HOAT (17 mg, 0.12 mmol). The mixture was stirred at 45° C. for 1 h then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as a yellow solid (13 mg, 13%).

reactant | N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.24 mmol, 80 mg | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CCC2(CCNC2)CC1 | C17H25N7
reactant | 2-cyanoacetic acid | 0.26 mmol, 22 mg | C(#N)CC(=O)O | C3H3NO2
reactant | EDCI | 0.26 mmol, 49 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.12 mmol, 17 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(8-((2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile | 13 mg, 13% | CN1N=CC(=C1)NC1=NC=CC(=N1)NC1CCC2(CCN(C2)C(CC#N)=O)CC1 | C20H26N8O
